2110-03-22 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2110-3-21**] 09:15 AM
 EKG - At [**2110-3-22**] 06:15 AM
   Patient became hypoxic and tachypneic, despite diuresis. CXR indicates
   left sided loculated effusion plus evidence of muchous plug in the left
   mainstem bronchus. After deep suctioning several times, the patient's
   sats improved but she remains on high flow shovel mask and nasal
   cannula.
   CE's - trop positive but CK flat. Likely related to rate. Trending. EKG
   without ischemic changes.
   TSH found to be 25 and pt was started on synthroid.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2110-3-21**] 06:00 PM
   Metronidazole - [**2110-3-22**] 12:12 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2110-3-21**] 02:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-22**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.5
C (95.9
   HR: 89 (51 - 107) bpm
   BP: 153/75(94) {109/47(67) - 164/78(94)} mmHg
   RR: 26 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    740 mL
                                                                    171 mL
   PO:
             TF:
   IVF:
                                                                    680 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    505 mL
   Urine:
                                                                  2,190 mL
                                                                    405 mL
   NG:
                                                                    250 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,700 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.49/44/65/30/9
   PaO2 / FiO2: 68
   Physical Examination
   General Appearance: Overweight / Obese, Awake, alert
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, NG tube with
   significant output
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bases b/l)
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present,
   Distended, decreased BS
   Extremities: Right: 4+, Left: 4+, sacral edema
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   395 K/uL
   9.8 g/dL
   107 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   103 mEq/L
   140 mEq/L
   29.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2110-3-21**]  03:04 PM
                             [**2110-3-21**]  05:20 PM
                             [**2110-3-22**]  12:00 AM
                             [**2110-3-22**]  04:08 AM
   WBC
   10.3
   Hct
   29.4
   Plt
   395
   Cr
   0.4
   TropT
   0.14
   0.13
   0.12
   TCO2
   34
   Glucose
   116
   107
   Other labs: PT / PTT / INR:21.1/29.7/2.0, CK / CKMB /
   Troponin-T:79//0.12, Differential-Neuts:89.8 %, Lymph:6.5 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.9 mg/dL
   [**3-21**] Blood Cx -  NGTD
   [**3-19**] Blood Cx
 NGTD
   CXR [**3-21**] Prelim -
   Marked left lung volume loss has progressed with increased size of a
   large
   partially loculated left effusion. A filling defect is suggested in the
   left
   main stem bronchus distally, possibly representing mucus impaction
   [**3-21**] CT HEAD - IMPRESSION: No acute intracranial abnormality
   [**3-21**] CT ABD/PELVIS - Prelim
   1. Marked worsening of diffuse anasarca compared to outside hospital CT
   scan
   of [**2110-3-5**], also with mild increase in bilateral moderate pleural
   effusions.
   There is new collapse of the visualized basal segments of the left
   lower lobe.
   2. Assessment of the bowel is limited due to non-distention, lack of
   oral
   contrast, and lack of IV contrast, however, diffuse colonic wall
   thickening is
   again seen, similar to that previously seen, and again consistent with
   colitis. No evidence of perforation, bowel obstruction, or bowel wall
   gas is
   noted.
   Assessment and Plan
   ASSESSMENT & PLAN: The pt. is a 78 y/o F with PMH of anxiety, chronic
   pain, dementia and poor nutritional status on TPN with C. diff collitis
   now transferred to MICU with altered mental status and tachycardia with
   episodes of bradycardia.
   .
   # Hypoxia:  Pt with evidence of volume overload on CXR, also w/ L main
   bronchus mucus plugging, question of L [**Doctor Last Name **] lobe loculated effsison
   however loculation not seen on CT
   -          Continue lasix 20mg IV goal 1L neg
   -          Aggressive pulm toileting and suctioning, add accapella,
   freq nebs
   -          Consideration for bronchoscopy if no improvement with above
   measures, monitor effusion, if no improvement with diuresis, consider
   thoracentesis
   .
   #. Delirium: Most likely multifactorial caused by long-hospitalization,
   medications (previously on opiates/sedating meds), poor nutritional
   status and underlying infection
   - Hold all sedating meds
   - Head CT for eval given pt on coumadin
   - haldol 0.25mg PO prn aggitation
   - frequent reorientation
   - treat underlying infx as above
   .
   #. Tachycardia: Sinus tachycardia, persistent throughout
   hospitalization, related to med withdrawal, pain,  underlying infection
   - continue to monitor
   .
   #. Bradycardia - 2 brief episodes of sinus brady this yest, no evidence
   of arryhtmia or pauses, consider vagal stimulus with gastric distention
   - monitor on tele
   - continue gastric decompression as above
   - Head CT to eval for intracranial process, less likely given episode
   was brief and non-progressive
   .
   #. Massive Gastric Distention: Unclear etiology, progressive,
   displacing bowel inferiorly and laterally. Pt has been taking po, NGT
   placed yest for decompression.
   - NPO
   - NGT to suction
   - TSH elevated, synthroid started
   - CT Abd to eval for anatomic obstruction
   - Consider reglan if CT shows no obstruction
   .
   #. Severe C. diff colitis: C. diff positive from OSH with report of
   flex sig showing pseudomembranes and pan colitis. Pt continues on
   flagyl and po vanco. CMV negative. Course lengthened after pt received
   daptomycin for concern of UTI. Plan for stop date of 10 days after last
   dapto dose ([**3-26**]). KUB with slight interval decrease in colonic
   distention without thumbprinting or mucosal wall thickening and no free
   air. Surgery has signed off. Currently WBC WNL and afebrile. Unclear if
   current AMS and tachy related to persistent severe C. diff. C. diff
   negative here. Lactate 0.9.
   -cont Vanc 250mg PO q6h - change to PR for now given increased NG
   output
   -cont Flagyl 500mg IV q8
   -f/u repeat BCx
   -trend WBC, fever curve
   -will obtain CT A/P to further evaluate colonic distention, progression
   of colitis, consider GI consult for repeat scope if evidence of
   worsening
   -NPO
   .
   #. Anasarca: pt with low albumin, poor nutritional status
   - continue TPN (will need PPN awaiting PICC replacement)
   - will diuresis, cont. lasix 20mg IV, goal neg 1L daily
   .
   #. Urinary Retention: MRI T&L spine limited study but no evidence of
   cord compression, likely med related
   - Continue foley for now, plan for voiding trial
   - If no improvement plan for repeat MRI given motion limited eval
   .
   #. RUE DVT: likely [**3-17**] to PICC, R PICC removed, L PICC reinserted
   -therapuetic on Coumadin
   .
   #. VRE Urine Culture +: The pt has a hx of urinary retention, urine cx
   positive but pt previously asymptomatic, ? colonization. Foley was
   intially discontinued but pt having urinary retention and was needing
   frequent straight caths so reinserted foley. There was concern urinary
   retention was sx of UTI. She received 3 day course of daptomycin
   [**Date range (1) 3942**]
   .
   # FEN: no IVFs/ replete lytes prn, TPN
   .
   # PPX: coumadin, no bowel regimen , aspiration, C. diff
   .
   # ACCESS: L midline - will replace with PICC
   .
   # CODE: full, confirmed
   .
   # CONTACT: [**Name (NI) 2316**] dtr(HCP)[**Telephone/Fax (1) 3943**], would like to be called daily
   with updates
   .
   # DISPO:pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2110-3-21**] 09:15 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: h2
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2110-03-22 08:31:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2110-3-21**] 09:15 AM
 EKG - At [**2110-3-22**] 06:15 AM
   Unable to get picc, has midline, off TPN.
   Hypoxic and tachypneic from mucus plug, bilateral pleural effusion,
   sats improved with deep suctioning
   EKG w/o ischemia
   TSH 25, started on synthroid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2110-3-21**] 06:00 PM
   Metronidazole - [**2110-3-22**] 12:12 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2110-3-21**] 02:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-22**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.5
C (95.9
   HR: 56 (51 - 107) bpm
   BP: 168/78(99) {109/47(67) - 168/78(99)} mmHg
   RR: 22 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
             Total In:
                                                                    740 mL
                                                                    185 mL
   PO:
             TF:
   IVF:
                                                                    680 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    505 mL
   Urine:
                                                                  2,190 mL
                                                                    405 mL
   NG:
                                                                    250 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,700 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.49/44/65/30/9
   PaO2 / FiO2: 68
   Physical Examination
   General Appearance: No acute distress, arousable, oriented x 2
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube with 500 cc NG return
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: present
   Respiratory / Chest: No BS on L, R ronchorous
   Abdominal: Soft, Non-tender, No(t) Bowel sounds diminished, Distended,
   Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: More awake and alert, agitated
   Labs / Radiology
   9.8 g/dL
   395 K/uL
   107 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   103 mEq/L
   140 mEq/L
   29.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2110-3-21**]  03:04 PM
                             [**2110-3-21**]  05:20 PM
                             [**2110-3-22**]  12:00 AM
                             [**2110-3-22**]  04:08 AM
   WBC
   10.3
   Hct
   29.4
   Plt
   395
   Cr
   0.4
   TropT
   0.14
   0.13
   0.12
   TCO2
   34
   Glucose
   116
   107
   Other labs: PT / PTT / INR:21.1/29.7/2.0, CK / CKMB /
   Troponin-T:79//0.12, Differential-Neuts:89.8 %, Lymph:6.5 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.9 mg/dL
   CXR: Complete L lung white out--
   Cxs: NGTD
   CT head: neg
   CT abd/pelvis: anasarca, collapse of basal seg LLL, bilateral big
   pleural effusions, diffuse colonic thickening, no megacolon/obstruction
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 BRADYCARDIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 DELIRIUM / CONFUSION
   78 y/o F with hx of chronic pain, dementia presents with delirium,
   ileus, cdiff colitis, hypoxemia.  No toxic megacolon
but with severe
   colitis.
   Delirium: improving, holding narcotics, use haldol prn, improving
   mental status with synthroid started.
   Resp: pulm toilet, acapella, chest PT, mucomyst nebs, cup and [**Last Name (LF) 3961**], [**First Name3 (LF) **]
   need bronch, ? pigtails for big effusions vs slow diuresis.  Patient
   with compromised airways bilaterally with mucus impaction and
   significant pleural effusions contributing to respiratory compromise.
   On exam patient has E
A changes in left lung in mid lung zone but not
   at apex suggesting some improvement with the chest PT delivered this
   morning.
   -CXR now
   -Continue PT and suctioning
   -Would require intubation for bronchoscopy given high O2 requirement
   and high burden of secretions.
   Cdiff colitis: continue abx, change po vanc to pr with NG output, keep
   NPO and on TPN , start reglan
   Sinus arrythmia: tachy brady syndrome...treat symptomatically. TSH 25,
   started synthroid
   Urine retention with VRE and [**Female First Name (un) 444**]...foley changed lately..chronic
   colonization...treat if fever.
   R arm acute DVT: on coumadin
    I/O: slow diuresis, albumin 2, on TPN once picc replaced
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: NPO for ileus, TPN held due to access, start PPN
   Glycemic Control:
   Lines / Intubation:
   Midline - [**2110-3-21**] 09:00 AM
   Comments: picc needs change over IR
   Comments:
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU